US05412137
To a solution of 1.67 gms of 3-methyl pentanol in 40 ml of dimethylformamide, 0.62 gms of sodium hydride are added; and the reaction mixture is stirred at room temperature for 1 hour. To this solution is added 4.0 gms of the protected bromo-alcohol and the reaction mixture is stirred at room temperature for 17 hours. The reaction mixture is then partitioned between ethyl acetate and water. The organic layer is washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum to give a yellow liquid. To a solution of 4.0 gms of this liquid in 240 ml of methanol is added 0.40 gms of p-toluenesulfonic acid and the reaction is stirred at room temperature for 16 hours. The methanol is removed under reduced pressure, and the residue is partitioned between ethyl acetate and water. The organic layer is washed with aqueous NaHCO3 and brine, then dried over Na2SO4, filtered, and concentrated under vacuum to give 8-(3-methylpentyloxy)octanol.

reactant | 3-methyl pentanol | 1.67 gms | CC(CCO)CC | C6H14O
reactant | sodium hydride | 0.62 gms | [H-].[Na+]
reactant | bromo-alcohol | 4.0 gms | BrO | BrHO
reactant | p-toluenesulfonic acid | 0.40 gms | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | methanol | 240 ml | CO | CH4O
product | 8-(3-methylpentyloxy)octanol | CC(CCOCCCCCCCCO)CC | C14H30O2
